US08067426B2
6-Amino-2-{[(1S)-1-methylpropyl]oxy}-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 29 from 9-(4-chlorobutyl)-8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9H-purin-6-amine and piperidine.

reactant | 9-(4-chlorobutyl)-8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9H-purin-6-amine | ClCCCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CC)C | C14H22ClN5O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Amino-2-{[(1S)-1-methylpropyl]oxy}-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)O[C@H](CC)C)CCCCN1CCCCC1)=O | C18H30N6O2
